US04847256
7-(3-Chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 50.0 g of 3'-chloro-3-dimethylaminoacrylophenone, 25.0 g of 3-aminopyrazole-4-carbonitrile and 500 ml of glacial acetic acid was heated at reflux for 2 hours. The mixture went into solution upon heating and a precipitate formed after one hour of refluxing. The reaction mixture was filtered and the crystals collected were triturated with saturated aqueous sodium bicarbonate, filtered and washed with water and then dried to give 49.0 g of the product of the example as colorless crystals, mp 238°-240° C.

reactant | 3'-chloro-3-dimethylaminoacrylophenone | 50.0 g | ClC=1C=C(C=CC1)C(C=CN(C)C)=O | C11H12ClNO
reactant | 3-aminopyrazole-4-carbonitrile | 25.0 g | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Chlorophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 49.0 g | ClC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C#N | C13H7ClN4
